US04383052
To 5 g (0.024 mol) of 1-hydroxyethane-1,1-diphosphonic acid in 30 ml of triethylamine was gradually added 15.7 g (0.15 mol) of methacryloyl chloride with ice cooling. After the temperature was raised to room temperature, the mixture was stirred for ten hours. The reaction solution was acidified with aqueous hydrochloric acid and then extracted with diethyl ether. The resulting aqueous phase was alkalized with sodium hydroxide and then extracted again with diethyl ether. The resulting aqueous phase was chromatographed over Amberlite 120B (trade mark, Rohm & Haas Co.) and the solvent of the eluate was evaporated to give 4.3 g of a colorless oily substance which was identified to be 1-methacryloxyethane-1,1-diphosphonic acid (yield 65%).

reactant | 1-hydroxyethane-1,1-diphosphonic acid | 0.024 mol, 5 g | OC(C)(P(O)(=O)O)P(O)(=O)O | C2H8O7P2
reactant | methacryloyl chloride | 0.15 mol, 15.7 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
product | 1-methacryloxyethane-1,1-diphosphonic acid | yield 65% | C(C(=C)C)(=O)OC(C)(P(O)(=O)O)P(O)(=O)O | C6H12O8P2
